US08729068B2
A mixture of 250 mg of 1-deoxy-1-[{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}(methyl)amino]-D-glucitol, 1.5 mL of a 1.0 M aqueous sodium hydroxide solution, and 2.5 mL of ethanol was heated and refluxed overnight. The reaction mixture was concentrated under reduced pressure and the residue was purified by ODS silica gel column chromatography (acetonitrile-water). The product was lyophilized to obtain 33 mg of sodium 1-{[(3-{[3-({4-[2-(4-carboxylatophenyl)ethyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}phenyl)sulfonyl](methyl)amino}-1-deoxy-D-glucitol as a yellow foamed solid.

reactant | 1-deoxy-1-[{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}(methyl)amino]-D-glucitol | 250 mg | COC(=O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(C=CC2)S(=O)(=O)N(C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C | C39H45N3O11S2
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | sodium 1-{[(3-{[3-({4-[2-(4-carboxylatophenyl)ethyl]phenyl}carbamoyl)-4,5,6,7-tetrahydro-1-benzothiophen-2-yl]carbamoyl}phenyl)sulfonyl](methyl)amino}-1-deoxy-D-glucitol | 33 mg | C(=O)([O-])C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(C=CC2)S(=O)(=O)N(C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C.[Na+] | InChI=1S/C38H43N3O11S2.Na/c1-41(20-29(43)33(45)34(46)30(44)21-42)54(51,52)27-6-4-5-25(19-27)35(47)40-37-32(28-7-2-3-8-31(28)53-37)36(48)39-26-17-13-23(14-18-26)10-9-22-11-15-24(16-12-22)38(49)50;/h4-6,11-19,29-30,33-34,42-46H,2-3,7-10,20-21H2,1H3,(H,39,48)(H,40,47)(H,49,50);/q;+1/p-1/t29-,30+,33+,34+;/m0./s1
